US09056859B2
Step E: tert-butyl (±)-2,5-diazabicyclo[4.1.0]heptane-2-carboxylate
tert-Butyl (±)-9H-fluoren-9-ylmethyl 2,5-diazabicyclo[4.1.0]heptane-2,5-dicarboxylate (1.05 g, 2.50 mmol) was dissolved in Ether (25 mL) and was treated with 1-octanethiol (3.65 g, 24.97 mmol) at room temperature for 10 minutes. Then DBU (0.151 mL, 0.999 mmol) was added. Let mixture stir for 4 hours. Then solvent and extra 1-Octanethiol was removed under reduced pressure. And residue was put on 40 gram silica gel column and eluted on ISCO (0-15% MeOH/EtOAc). Removing solvent gave the title compound. 1H NMR (ppm) (500 MHz, CDCl3): δ 3.51-3.45 (1H, m), 3.05-2.58 (5H, m), 1.71 (1H, s), 1.45 (9H, s), 0.88-0.77 (1H, m), 0.53-0.44 (1H, m).

reactant | tert-Butyl (±)-9H-fluoren-9-ylmethyl 2,5-diazabicyclo[4.1.0]heptane-2,5-dicarboxylate | 2.50 mmol, 1.05 g | C12N(CCN(C2C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C25H28N2O4
reactant | 1-octanethiol | 24.97 mmol, 3.65 g | C(CCCCCCC)S | C8H18S
reactant | DBU | 0.999 mmol, 0.151 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | Ether | 25 mL | CCOCC | C4H10O
product | tert-butyl (±)-2,5-diazabicyclo[4.1.0]heptane-2-carboxylate | C12N(CCNC2C1)C(=O)OC(C)(C)C | C10H18N2O2
